US06777409B2
5.25 g of (5-fluoro-2-methylphenyl)acetonitrile and 5.25 ml of methyl iodide are dissolved in 70 ml of dimethylformamide and mixed with 2.7 g of sodium hydride (80%) for 2.5 hours while being cooled with ice. After 3 hours at 0° C. and 16 hours at room temperature, it is mixed with ice water and ethyl acetate, acidified with 1 M hydrochloric acid, and the ethyl acetate phase is washed with water, dried (Na2SO4) and concentrated by evaporation. 6.1 g of 2-(5-fluoro-2-methylphenyl)-2-methylpropionitrile is obtained as an oil.

reactant | (5-fluoro-2-methylphenyl)acetonitrile | 5.25 g | FC=1C=CC(=C(C1)CC#N)C | C9H8FN
reactant | methyl iodide | 5.25 ml | CI | CH3I
reactant | sodium hydride | 2.7 g | [H-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
reactant | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-fluoro-2-methylphenyl)-2-methylpropionitrile | 6.1 g | FC=1C=CC(=C(C1)C(C#N)(C)C)C | C11H12FN
